US07932272B2
N-(5-Benzyl-thiophen-2-ylmethyl)-6-methylamino-nicotinamide
To a solution of N-(5-benzyl-thiophen-2-ylmethyl)-6-(methoxymethyl-amino)-nicotinamide described in Example A-159 (183 mg, 0.52 mmol) in dimethylsulfoxide (3 mL) was added sodium borohydride (120 mg, 3.12 mmol), and the solution was stirred at 140° C. for 5 hours. Water and ethyl acetate were added to the reaction solution, which was then partitioned, and the organic layer was washed with water twice. Silica gel was added to the organic layer, the solvent was evaporated in vacuo for adsorption, purification was carried out by silica gel column chromatography (ethyl acetate, then ethyl acetate:methanol=10:1), and the title compound (68 mg, 0.20 mmol, 38.8%) was obtained as a green solid.

reactant | N-(5-benzyl-thiophen-2-ylmethyl)-6-(methoxymethyl-amino)-nicotinamide | C(C1=CC=CC=C1)C1=CC=C(S1)CNC(C1=CN=C(C=C1)NCOC)=O | C20H21N3O2S
reactant | sodium borohydride | 3.12 mmol, 120 mg | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | N-(5-Benzyl-thiophen-2-ylmethyl)-6-methylamino-nicotinamide | 0.20 mmol, 68 mg, 38.8% | C(C1=CC=CC=C1)C1=CC=C(S1)CNC(C1=CN=C(C=C1)NC)=O | C19H19N3OS
